### PR TITLE
Bump to 4.22.0-rc3

### PR DESCRIPTION
**Pull request by Parcly-Taxel**
* Satisfy the new `commandStart` linter.
* Remove two upstreamed lemmas.

### CODE REVIEW

File: Carleson/Discrete/ForestUnion.lean [hunk 1]
```diff
@@ -505,7 +505,7 @@ lemma stackSize_𝔘₃_le_𝔐 (x : X) : stackSize (𝔘₃ k n j) x ≤ stackS
   let mf' : 𝔓 X → 𝔓 X := fun u ↦ if mu : u ∈ 𝔘₃ k n j then mf k n j ⟨u, mu⟩ else default
   simp_rw [stackSize, indicator_apply, Pi.one_apply, Finset.sum_boole, Nat.cast_id]
   refine Finset.card_le_card_of_injOn mf' (fun u mu ↦ ?_) (fun u mu u' mu' e ↦ ?_)
-  · simp_rw [Finset.mem_filter, Finset.mem_univ, true_and] at mu ⊢
+  · simp_rw [Finset.coe_filter, mem_setOf, Finset.mem_filter, Finset.mem_univ, true_and] at mu ⊢
```
Comment (grunweg) [inline Carleson/Discrete/ForestUnion.lean]: Why this change?

File: Carleson/TileExistence.lean [hunk 2]
```diff
@@ -12,8 +12,8 @@ variable {X : Type*} {a : ℕ} {q : ℝ} {K : X → X → ℂ} {σ₁ σ₂ : X
 lemma realD_nonneg : 0 ≤ (D:ℝ) := (defaultD_pos a).le
 
 lemma ball_bound {Y : Set X} (k : ℤ) (hk_lower : -S ≤ k)
-  (hY : Y ⊆ ball o (4*D^(S:ℤ)-D^k:ℝ)) (y : X) (hy : y ∈ Y) :
-    ball o (4 * D ^ (S:ℤ):ℝ) ⊆ ball y (8 * D^(2 * S:ℤ) * D^k:ℝ) := by
+    (hY : Y ⊆ ball o (4 * D ^ (S : ℤ) - D ^ k)) (y : X) (hy : y ∈ Y) :
```
Comment (grunweg) [inline Carleson/TileExistence.lean:15]: You're removing the cast to R because the argument to Metric.ball is a real number anyway, right?

File: Carleson/TileExistence.lean [hunk 3]
```diff
@@ -1463,7 +1463,7 @@ lemma kappa_le_log2D_inv_mul_K_inv : κ ≤ (Real.logb 2 D * K')⁻¹ := by
 end ProofData
 
 lemma boundary_measure {k : ℤ} (hk : -S ≤ k) (y : Yk X k) {t : ℝ≥0} (ht : t ∈ Set.Ioo 0 1)
-    (htD : (D^(-S:ℤ):ℝ) ≤ t * D^k):
+    (htD : (D ^ (-S : ℤ) : ℝ) ≤ t * D ^ k) :
```
Comment (grunweg) [inline Carleson/TileExistence.lean:1466]: Does this change the types of the arguments? (This might be fine, but I'd like it to be intentional.)

**Review by grunweg — COMMENTED** [review]
Thanks! Three small questions, otherwise LGTM.
I'll let @fpvandoorn take a final look for a second opinion.

File: Carleson/TileExistence.lean (hunk 3 above)
Comment (Parcly-Taxel) [reply Carleson/TileExistence.lean:1466]: No, this does not change the argument types.

File: Carleson/TileExistence.lean (hunk 2 above)
Comment (Parcly-Taxel) [reply Carleson/TileExistence.lean:15]: Yes.

File: Carleson/Discrete/ForestUnion.lean (hunk 1 above)
Comment (Parcly-Taxel) [reply Carleson/Discrete/ForestUnion.lean]: Probably some defeq abuse that was gotten rid of in the intervening time.
